US06291442B1
2-Bromotoluene (2 mmol) is heated to 230° C. for 6 hours with aniline (20 mmol) in the presence of [(C6H5)2PCH2]2Ni(CO)2 (0.2 mmol) using ethanol (1.2 mL) as the solvent in a sealed tube to form 2-anilinotoluene. 2-Anilinotoluene is oxidized with potassium permaganate in water to form 2-anilinobenzoic acid. (See Cramer, et al., J. Org. Chem. (1975), 40:2267).

reactant | 2-Bromotoluene | 2 mmol | BrC1=C(C=CC=C1)C | C7H7Br
reactant | aniline | 20 mmol | NC1=CC=CC=C1 | C6H7N
solvent | ethanol | 1.2 mL | C(C)O | C2H6O
product | 2-anilinotoluene | N(C1=CC=CC=C1)C1=C(C=CC=C1)C | C13H13N
